US06740670B2
N,N-Di-n-pentyl-2-(2,4-difluorobenzyloxy)-5-formylbenzamide was prepared from 2-(2,4-difluorobenzyloxy)-5-formylbenzoic acid (200 mg, 1 eq) using the same procedure as for N,N-di-n-pentyl-2-methoxy-5-formylbenzamide. The product was obtained as a pale brown oil (442 mg, 99%). 1H NMR (CDCl3) δ9.89 (s, 1H, O═C—H), 5.22 (d, 1H, CH2Ar), 5.10 (d, 1H, CH2Ar), 3.74 (m, 1H, NCH2), 3.14 (m, 1H, NCH2), 3.05 (m, 2H, NCH2).

reactant | 2-(2,4-difluorobenzyloxy)-5-formylbenzoic acid | 200 mg, 1 eq | FC1=C(COC2=C(C(=O)O)C=C(C=C2)C=O)C=CC(=C1)F | C15H10F2O4
reactant | N,N-di-n-pentyl-2-methoxy-5-formylbenzamide | C(CCCC)N(C(C1=C(C=CC(=C1)C=O)OC)=O)CCCCC | C19H29NO3
product | N,N-Di-n-pentyl-2-(2,4-difluorobenzyloxy)-5-formylbenzamide | C(CCCC)N(C(C1=C(C=CC(=C1)C=O)OCC1=C(C=C(C=C1)F)F)=O)CCCCC | C25H31F2NO3
